US09278918B2
4-Chloro-4′-fluorobiphenyl-2-amine
2-Bromo-5-chloroaniline (CAS#823-57-4; 5 g), 4-fluorophenylboronic acid (3.56 g) and cesium carbonate (31.6 g) were combined in THF (70 ml) and water (35 ml). The mixture was degassed by bubbling argon through the solution. After addition of [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (886 mg) the reaction mixture was stirred 1 h at 80° C. in a sealed tube. The reaction mixture was diluted with EtOAc, washed with water, dried over Na2SO4, evaporated and purified by chromatography (silica gel, 0% to 30% EtOAc in heptane). The product was finally bulb-to-bulb distilled at 0.3 mbar and 120-130° C. oven temperature to give the title compound (5.07 g) as a light yellow liquid.

reactant | 2-Bromo-5-chloroaniline | 5 g | BrC1=C(N)C=C(C=C1)Cl | C6H5BrClN
reactant | 4-fluorophenylboronic acid | 3.56 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | cesium carbonate | 31.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | water | 35 ml | O | H2O
product | 4-Chloro-4′-fluorobiphenyl-2-amine | 5.07 g | ClC=1C=C(C(=CC1)C1=CC=C(C=C1)F)N | C12H9ClFN
